US06251911B1
With the exclusion of moisture, 171 μl (0.84 mmol) of pivalic anhydride are added at 0° C. to 200 mg (0.767 mmol) of 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo-[3,4-d]pyrimidine in 4 ml of pyridine/methylene chloride (1:1) and stirred at RT for 3 days. The resulting thick suspension is filtered. The residue is washed with methylene chloride and dried, yielding 4-(3-chloro-phenylamino)-3-(2,2-dimethyl-propionyl-amino)-1H-pyrazolo-[3,4-d]pyrimidine; HPLC: tRet(grad20-100/20)=15.0; FAB-MS: (M+H)+=345.

reactant | pivalic anhydride | 0.84 mmol, 171 μl | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo-[3,4-d]pyrimidine | 0.767 mmol | NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C11H9ClN6
solvent | pyridine methylene chloride | 4 ml | N1=CC=CC=C1.C(Cl)Cl
product | 4-(3-chloro-phenylamino)-3-(2,2-dimethyl-propionyl-amino)-1H-pyrazolo-[3,4-d]pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NC(C(C)(C)C)=O | C16H17ClN6O
